US07119205B2
3-{4-[(1-acetyl-4-hydroxypiperidin-4-yl)methoxy]phenyl}-2-chloro-4-hydroxy-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile
An ambient solution of 2-chloro-4-hydroxy-3-{4-[(4-hydroxypiperidin-4-yl)methoxy]phenyl}-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile TFA salt (40 mg, 0.073 mmol), Et3N (0.015 mL, 0.11 mmol), and Ac2O (0.007 mL, 0.073 mmol) in DCM (0.5 mL) was stirred for 18 h. The reaction was then quenched by the addition of saturated NaHCO3 (1 mL) and EtOAc (1 mL). The layers were separated, and the aqueous was extracted with additional EtOAc (2×1 mL). The combined organic layers were dried with anhydrous Na2SO4, filtered, and concentrated under reduced pressure. The residue was purified by RPLC to give the title compound. MS (ESI) m/e 474 (M+H)+; 1H NMR (300 MHz, DMSO-d6) δ ppm 1.61 (m, 4H), 2.01 (s, 3H), 2.94 (m, 2H), 3.4 (m, 2H), 3.81 (s, 2H), 6.95 (d, J=8.81 Hz, 2H), 7.22 (d, J=8.48 Hz, 2H).

reactant | 2-chloro-4-hydroxy-3-{4-[(4-hydroxypiperidin-4-yl)methoxy]phenyl}-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile TFA salt | 0.073 mmol, 40 mg | OC(=O)C(F)(F)F.ClC1=C(C2=C(NC(C(=C2O)C#N)=O)S1)C1=CC=C(C=C1)OCC1(CCNCC1)O
reactant | Et3N | 0.11 mmol, 0.015 mL | CCN(CC)CC | C6H15N
reactant | Ac2O | 0.073 mmol, 0.007 mL | CC(=O)OC(=O)C | C4H6O3
solvent | DCM | 0.5 mL | C(Cl)Cl | CH2Cl2
product | 3-{4-[(1-acetyl-4-hydroxypiperidin-4-yl)methoxy]phenyl}-2-chloro-4-hydroxy-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile | C(C)(=O)N1CCC(CC1)(O)COC1=CC=C(C=C1)C1=C(SC=2NC(C(=C(C21)O)C#N)=O)Cl | C22H20ClN3O5S
